US05561113
Stage A: 5-(4-chlorobutyl)tetrazole
100mmol of 5-chlorovaleronitrile are placed under an inert atmosphere in 100 ml of anhydrous tetrahydrofuran on an ice bath. 445 mmol of sodium azide and then 100 mmol of aluminum chloride are then added in small fractions. The reaction mixture is heated to 80° C. and left under reflux, with stirring, for 16 hours. The complex formed is then hydrolyzed by addition, dropwise, of 150 cm3 of 5% hydrochloric acid. The resulting aqueous phase is extracted with ethyl acetate and after washing the organic phase with water, then with a saturated sodium chloride solution, drying and evaporation, the residue obtained is taken up in pentane. The expected product is then obtained after filtration of the precipitate formed.

reactant | 5-chlorovaleronitrile | 100mmol | ClCCCCC#N | C5H8ClN
reactant | sodium azide | 445 mmol | [N-]=[N+]=[N-].[Na+]
reactant | aluminum chloride | 100 mmol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 150 cm3 | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 5-(4-chlorobutyl)tetrazole | ClCCCCC1=NN=NN1 | C5H9ClN4
